US04591548
(c) 2-nitrohydroquinone
The 2-nitro-4-acetyloxyanisole (160 g, 0.757 mole) in 47% aqueous hydrobromic acid (1,200 ml) was refluxed for 1 hour. The resulting solution was evaporated under vacuum to 200 ml. The 2-nitrohydroquinone (115 g, 78%) separated on cooling as orange prisms.

reactant | 2-nitro-4-acetyloxyanisole | 0.757 mole, 160 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC(C)=O)OC | C9H9NO5
solvent | hydrobromic acid | 1,200 ml | Br | BrH
product | 2-nitrohydroquinone | [N+](=O)([O-])C1=C(O)C=CC(=C1)O | C6H5NO4
